US03958005
42.2 ml of 1.4 N butyl lithium in hexane were added with stirring to a solution of 10 g of ethyl γ-propargyl-β-ethoxy-crotonate in 75 ml of tetrahydrofuran cooled to -60°C and after holding the mixture at the said temperature for 2 hours, 6.5 g of α-chlorobutyraldehyde were added thereto. The mixture was held at -60°C for 1 hour and after raising the temperature to 0°C a mixture of 90 g of monosodium phosphate in 110 ml of water was added thereto. The mixture was decanted and the aqueous phase was extracted with ethyl acetate. The extracts were washed with a saturated sodium bicarbonate solution, then with water, was dried and evaporated to dryness. The oil residue was mixed with stirring with 120 ml of ethanol and 60 ml of 2 N hydrochloric acid for 16 hours and was then poured into water. The mixture was extracted with methylene chloride and the extracts were washed with water, dried and evaporated to dryness. The oily residue was chromatographed over silica and was eluted with a 3-1 cyclohexane-ethyl acetate mixture to obtain 5.8 g of ethyl 3-oxo-8-hydroxy -9-chloro-6-undecynoate with a refractive index of nD22 = 1.4855.

reactant | butyl lithium | 1.4 N, 42.2 ml | C(CCC)[Li]
reactant | ethyl γ-propargyl-β-ethoxy-crotonate | 10 g | C(C#C)C/C(=C/C(=O)OCC)/OCC | C11H16O3
reactant | α-chlorobutyraldehyde | 6.5 g | ClC(C=O)CC | C4H7ClO
reactant | monosodium phosphate | 90 g | P(=O)([O-])(O)O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | water | 110 ml | O | H2O
product | ethyl 3-oxo-8-hydroxy -9-chloro-6-undecynoate | 5.8 g | O=C(CC(=O)OCC)CCC#CC(C(CC)Cl)O | C13H19ClO4
